US04772703
(B) 2-[[3-(1H-tetrazol-5-ylmethyl)phenoxy]methyl]quinazoline
To a solution of 6.3 g (0.023 mol) of 3-(2-quinazolinylmethoxy)benzenacetonitrile in 150 ml of dimethylformamide are added 7.5 g (0.115 mol) of sodium azide and 6.2 g (0.115 mol) of ammonium chloride, and the slurry is heated to 135° C. for 72 hours. The slurry is poured into 500 ml of water/500 ml of ethyl acetate, and the layers are separated. The aqueous phase is twice extracted with 250 ml of ethyl acetate, and the combined ethyl acetate solution is twice washed with 500 ml of water, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain 4 g of crystals, m.p. 129°-131° C. Recrystallization from ethanol gives 2.5 g (34%) of crystals, m.p. 129°-131° C., MS(CI) 319 (M+H).

reactant | 3-(2-quinazolinylmethoxy)benzenacetonitrile | 0.023 mol, 6.3 g | N1=C(N=CC2=CC=CC=C12)COC=1C=C(C=CC1)CC#N | C17H13N3O
reactant | sodium azide | 0.115 mol, 7.5 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.115 mol, 6.2 g | [Cl-].[NH4+]
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[[3-(1H-tetrazol-5-ylmethyl)phenoxy]methyl]quinazoline | 4 g | N1N=NN=C1CC=1C=C(OCC2=NC3=CC=CC=C3C=N2)C=CC1 | C17H14N6O
